US05494928
A suspension of 0.56 g of sodium hydride dispersion in 75 ml of tetrahydrofuran was treated with 2.95 g of 5-bromoindole at 0° C. and stirred at this temperature for 1 hour. After the addition of 2.1 ml of (RS)-methyloxirane the reaction mixture was stirred at room temperature for 60 hours and subsequently treated with 15 ml of water. The mixture was diluted with 750 ml of ether, washed twice with 250 ml of water and with 125 ml of saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 120 g of silica gel with toluene-ethyl acetate (19:1). There were obtained 3.4 g (89%) of (RS)-1-(5-bromo-indol-1-yl)-propan-2-ol as a yellow oil.

reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | 5-bromoindole | 2.95 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | (RS)-methyloxirane | 2.1 ml | CC1OC1 | C3H6O
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ether | 750 ml | CCOCC | C4H10O
product | (RS)-1-(5-bromo-indol-1-yl)-propan-2-ol | 3.4 g, 89% | BrC=1C=C2C=CN(C2=CC1)CC(C)O | C11H12BrNO
